US04720495
1.87 g (0.005 mole) of 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid was dissolved, at room temperature, in a mixture of 25 ml of 2N aqueous solution of sodium hydroxide and 5 ml of ethanol. This solution was adjusted to pH 1 by the addition of concentrated hydrochloric acid under cooling with ice. The crystals which separated out were collected by filtration and successively washed with small volumes of water and ethanol. These crystals were recrystallized from water to obtain 1.77 g (82.7% yield) of 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride monohydrate in the form of yellow crystals. These crystals had a melting point of 225°-228° C. (dec.).

reactant | 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.005 mole, 1.87 g | FC1=C(C=2C(CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)=O)N1CCN(CC1)C | C19H20FN3O4
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride monohydrate | 1.77 g, 82.7% yield | O.Cl.FC1=C(C=2C(CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)=O)N1CCN(CC1)C | InChI=1S/C19H20FN3O4.ClH.H2O/c1-10-7-14(24)15-16-11(18(25)12(19(26)27)9-23(10)16)8-13(20)17(15)22-5-3-21(2)4-6-22;;/h8-10H,3-7H2,1-2H3,(H,26,27);1H;1H2
